US04578381
2.8 Grams of 2-chloro-3-chloromethylquinoline was dissolved in 30 ml of acetic acid and the solution was refluxed for 2 hours. The reaction mixture was poured into water and the crystals precipitated were collected by filtration, and were recrystallized from methanol to obtain 2.1 g of 3-chloromethylcarbostyril in the form of colorless needle-like crystals.

reactant | 2-chloro-3-chloromethylquinoline | ClC1=NC2=CC=CC=C2C=C1CCl | C10H7Cl2N
reactant | water | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-chloromethylcarbostyril | 2.1 g | ClCC=1C(NC2=CC=CC=C2C1)=O | C10H8ClNO
